US07094908B2
(20) Ethyl 3-(5-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate
Ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (800 mg, 3.94 mmol) was dissolved in 15 mL of chloroform, and 4-nitrophthalic anhydride (988 mg, 4.33 mmol) was added to the obtained solution. The resulting mixture was then refluxed at 80° C. for 5 days. After the reaction was completed, the solvent was evaporated by distilling under a reduced pressure. The residue was purified by performing column chromatography (eluent: n-hexane/ethyl acetate=1/1) to obtain the desired product as a yellow solid (1.24 g, 83%). Rf=0.32 (n-hexane/ethyl acetate=1/1)

reactant | Ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 3.94 mmol, 800 mg | NCC(C(=O)OCC)C1(OCCO1)C | C9H17NO4
reactant | 4-nitrophthalic anhydride | 4.33 mmol, 988 mg | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 3-(5-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 1.24 g, 83% | [N+](=O)([O-])C=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OCC)C1(OCCO1)C)=O | C17H18N2O8
